US08110337B2
1. Synthesis of tris(4-chlorophenyl)sulfonium Bromide
Under a nitrogen atmosphere, 16.3 g (0.06 mol) of di(4-chlorophenyl)sulfoxide was dissolved in 250 ml dichloremethane. Into the resulting solution kept at 0 to 5° C., 10.8 g (0.10 mol) of trimethylchlorosilane was added dropwise; the mixture was stirred at 0° C. for 30 min. Thereafter, 200 g of a tetrahydrofuran (THF) solution of the Grignard reagent prepared by the usual process with 4-bromochlorobenzene (0.18 mol) was added dropwise over the period of 30 min into the reaction vessel cooled with 0 to 10° C. ice water. After agitated for one hr at 0° C., followed by another hr agitation at room temperature, the reaction solution was slowly poured into an aqueous solution containing 250 ml of an aqueous 12% hydrogen bromide solution and ice, then extracted with 250 ml dichloromethane. The extract was dried with sodium sulfate.

reactant | di(4-chlorophenyl)sulfoxide | 0.06 mol, 16.3 g | ClC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)Cl | C12H8Cl2OS
reactant | trimethylchlorosilane | 0.10 mol, 10.8 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 4-bromochlorobenzene | 0.18 mol | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | hydrogen bromide | Br | BrH
solvent | tetrahydrofuran | 200 g | O1CCCC1 | C4H8O
product | tris(4-chlorophenyl)sulfonium Bromide | [Br-].ClC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | InChI=1S/C18H12Cl3S.BrH/c19-13-1-7-16(8-2-13)22(17-9-3-14(20)4-10-17)18-11-5-15(21)6-12-18;/h1-12H;1H/q+1;/p-1
